US07304162B2
3-Methoxy-2-methyl-benzoic acid hydrazide (1.0 g) and P-tetralone (0.9 g) were mixed in 4 mL of methanol with 1 drop of acetic acid at room temperature for 10 minutes. Approximately 10 mL of ether were added and the mixture was refrigerated. Crystals of 3-methoxy-2-methyl-benzoic acid (3,4-dihydro-1H-naphthalen-2-ylidene)-hydrazide formed, which were collected by filtration (0.85 g). 1H NMR (300 MHz, CDCl3)δ(ppm): 6.8-7.3 (m, 4H), 3.75+3.8 (2 s, 3H), 3.45+3.7 (2 s, 2H), 2.85 (t, 2H), 2.4 (t, 2H), 2.27+2.25 (2 s, 3H); multiple conformers; Rf=0.56 (3:1 ethyl acetate:hexane); m.p.=138° C.; m.p. of 3-methoxy-2-methyl-benzoic acid hydrazide=113-116° C.

reactant | 3-Methoxy-2-methyl-benzoic acid hydrazide | 1.0 g | COC=1C(=C(C(=O)NN)C=CC1)C | C9H12N2O2
reactant | ether | 10 mL | CCOCC | C4H10O
solvent | methanol | 4 mL | CO | CH4O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 3-methoxy-2-methyl-benzoic acid (3,4-dihydro-1H-naphthalen-2-ylidene)-hydrazide | C1C(CCC2=CC=CC=C12)=NNC(C1=C(C(=CC=C1)OC)C)=O | C19H20N2O2
